US06610700B2
2-Isopropyl-1,3-cyclopentanedione
To a solution of TiCl4 (1.47 g, 7.77 mmol) and isobutyraldehyde (559 mg, 7.75 mmol) in DCM (16 ml) under N2 at −78° was added a solution of 1,2-bistrimethylsilyloxycyclobutene (1.97 g, 8.56 mmol) in DCM (16 ml) maintaining a temperature of less than −70°. After 30 min the reaction was poured into water, extracted into DCM, washed (H2O×2), dried (MgSO4) and the solution concentrated in vacuo to yield a clear oil. To this oil was added TFA (20 ml) and the solution heated at reflux for 24 h. The solution was concentrated in vacuo and the residue purified by chromatography (SiO2; 50:50 EtOAc/hexane) to give the title compound as an off-white solid (180 mg, 17%). δH (d6-DMSO) 2.61 (1H, sept, J 7.0 Hz), 2.29 (4H, s), 1.04 (6H, d, J 7.0 Hz). m/z (ESI, 70V) 141 (MH+).

reactant | isobutyraldehyde | 7.75 mmol, 559 mg | C(C(C)C)=O | C4H8O
reactant | 1,2-bistrimethylsilyloxycyclobutene | 8.56 mmol, 1.97 g | C[Si](OC1=C(CC1)O[Si](C)(C)C)(C)C | C10H22O2Si2
reactant | water | O | H2O
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 16 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 16 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 7.77 mmol, 1.47 g | Cl[Ti](Cl)(Cl)Cl
product | 2-Isopropyl-1,3-cyclopentanedione | 180 mg, 17% | C(C)(C)C1C(CCC1=O)=O | C8H12O2
